US07291640B2
4-Bromo-2,3-dimethyl-pyridine 1-oxide
A mixture of 2,3-dimethyl-4-nitropyridine N-oxide (5 g, 29.7 mmol) and hydrogen bromide (30% wt in acetic acid, 100 mL) was heated for 48 hours at 100° C. The mixture was then filtered, washing through with 2 M sodium hydroxide and the filtrate was extracted with dichloromethane (×3). The combined organic solutions were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate:pentane, 50:50, to afford the title product as a pale yellow solid.

reactant | 2,3-dimethyl-4-nitropyridine N-oxide | 29.7 mmol, 5 g | CC1=[N+](C=CC(=C1C)[N+](=O)[O-])[O-] | C7H8N2O3
reactant | hydrogen bromide | 100 mL | Br | BrH
product | 4-Bromo-2,3-dimethyl-pyridine 1-oxide | BrC1=C(C(=[N+](C=C1)[O-])C)C | C7H8BrNO
